reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C+:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]=[C:6]([O-:7])[H:15])[H:11])([H:8])([H:9])[H:10],64.01391759545429
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:4]([C:3]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],63.0179387685608
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6][N:7]1[H:9],96.79293697547527
[C:1]([C:2]([O:3][H:12])([C:4]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.76580013450261
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[O+:1](=[C-:2][H:7])[C:3]#[C:4][C:5]#[N:6],102.623584152048
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[N+:3][O-:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12].[H:10][H:13],109.13150154232201
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5][C@:6]12[H:12],66.2453465373048
[O:1]=[C:2]([C:4](=[C:3])[H:6])[H:5]>>[O:1]=[C:2]([C:3]#[C:4][H:6])[H:5],9.936326021036102
[O:1](/[C:2]([N:3]1[C:4]([H:8])=[N:5]1)=[N:6]\[H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],28.454295221376128
[H:7][H:9].[O:1]=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],47.4239207203483
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])[C:5]1=[C:6]([H:11])[H:14])([H:7])([H:8])[H:9],82.3439409861816
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[N+:3]=[C-:4][O:5][C:6]([H:13])([H:14])[H:15])[H:11])([H:7])([H:8])[H:9].[H:10][H:12],76.98936793299559
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([H:14])[H:15])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:16])[H:17].[H:10][H:18],82.36354195192209
[C:1]([C@:2]([O:3][H:11])([C:6]#[N:7])[H:13])([H:8])([H:9])[H:10].[C:4]([N:5]([H:14])[H:15])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],30.575902994744503
[C:4]([O:5][H:15])[H:13].[N:1]([C@@:2]([C:3]([H:11])([H:12])[H:14])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],23.273948977072813
[C:1]([O:4][C:3](=[C:2]([H:8])[H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],77.7347764483257
[C:1]([C:2](=[C:6]=[N:7][C@:4]([C:3]([H:12])([H:13])[H:15])([O:5][H:16])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],74.71467690611136
[O:1]=[C:2]([C@@:4]([N:3]([H:8])[H:10])([C:5]#[C:6][H:11])[H:9])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],66.4867468786424
[H:7][H:13].[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]([H:12])[C:5]1=[O:6]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],78.12729422320241
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:7](=[C:6])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],12.586668020046794
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:9].[c:3]1([H:10])[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13],112.107301573188
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11],82.33720666461241
[H:5][H:8].[O:1]([C:2]([C:3](=[O:4])[H:9])([H:6])[H:7])[H:10]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],60.37423105638351
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([N+:7]#[C-:6])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],39.29398140990119
[C:4](=[C:5]([C:6]#[C:7][H:14])[H:12])([H:10])[H:11].[O:1](/[C:2](=[N:3]/[H:9])[H:8])[H:13]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],30.534162742090796
